US08389520B2
3-(Dimethylamino)-2-(1H-1,2,4-triazol-1-yl)acrylic acid ethyl ester
1.9 g (9.8 mmol) [1,2,4]-triazol-1-ylacetic acid ethyl ester [Ainsworth et al., J. Am. Chem. Soc. 1955, 77, 621-623] and 3.6 ml (2.9 g, 19.6 mmol) dimethylformamide diethyl acetal are stirred at a bath temperature of 100° C. for 12 h. For working up, the cooled reaction solution is concentrated on a rotary evaporator and the residue is dried in vacuo.

reactant | [1,2,4]-triazol-1-ylacetic acid ethyl ester | 9.8 mmol, 1.9 g | C(C)OC(CN1N=CN=C1)=O | C6H9N3O2
reactant | dimethylformamide diethyl acetal | 19.6 mmol, 3.6 ml, 2.9 g | C(C)OC(N(C)C)OCC | C7H17NO2
product | 3-(Dimethylamino)-2-(1H-1,2,4-triazol-1-yl)acrylic acid ethyl ester | C(C)OC(C(=CN(C)C)N1N=CN=C1)=O | C9H14N4O2
